US05756769
3-(2-Thienyl)-2-propynyl methanesulfonate (2.47 g, 11.4 mmol) and benzaldehyde (1.51 g, 14.3 mmol) were dissolved in 15.9 g of toluene and an aqueous 28% ammonia solution (5.89 g, 97 mol) was added dropwise at 23° C. over one hour to the solution, followed by stirring at the same temperature for 22 hours. After separating, the resultant organic phase was washed with water and concentrated to obtain 18.7 g of a toluene solution containing 1.49 g (yield: 60%) of N-benzylidene-3-(2-thienyl)-2-propynylamine.

reactant | 3-(2-Thienyl)-2-propynyl methanesulfonate | 11.4 mmol, 2.47 g | CS(=O)(=O)OCC#CC=1SC=CC1 | C8H8O3S2
reactant | benzaldehyde | 14.3 mmol, 1.51 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | ammonia | 97 mol, 5.89 g | N | H3N
solvent | toluene | 15.9 g | C1(=CC=CC=C1)C | C7H8
product | N-benzylidene-3-(2-thienyl)-2-propynylamine | 1.49 g, yield: 60% | C(C1=CC=CC=C1)=NCC#CC=1SC=CC1 | C14H11NS
